US07842713B2
Preparation of Intermediate 389d: Methyl 5-hydroxy-2-isobutyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-7-carboxylate
To a solution of methyl 5-(benzyloxy)-2-isobutyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-7-carboxylate (1 g, 2.72 mmol) in MeOH (10 mL) was added catalyst amount of 10% Pd on C. This mixture was stirred under H2 balloon at room temperature for 3 hr. The solids were filtered through a bed of Celite. Removal of the solvent gave the product (750 mg, 98%) as light yellow solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 0.97 (d, 6 H) 1.98-2.16 (m, 1 H) 3.05 (t, J=6.59 Hz, 2 H) 3.38-3.50 (m, 2 H) 3.57 (t, J=6.69 Hz, 2H) 3.82-3.93 (m, 3 H) 7.50 (s, 1 H) 7.74 (d, J=1.51 Hz, 1 H) 8.30 (d, J=1.32 Hz, 1 H); MS (ESI, pos): 278.

reactant | methyl 5-(benzyloxy)-2-isobutyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-7-carboxylate | 2.72 mmol, 1 g | C(C1=CC=CC=C1)OC1=C2CCN(C(C2=CC(=C1)C(=O)OC)=O)CC(C)C | C22H25NO4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | Methyl 5-hydroxy-2-isobutyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-7-carboxylate | 750 mg, 98% | OC1=C2CCN(C(C2=CC(=C1)C(=O)OC)=O)CC(C)C | C15H19NO4
